US04927838
Phosphorus oxychloride (16.6 mL) was added dropwise with stirring to dimethylformamide (70 mL) at -5° C. After the addition was completed, the mixture was stirred at 0° C. for 15 minutes, then a solution of 1-butyl-3,4-dihydro-6-methoxy-naphthalene (34.9 g) in dimethylformamide (30 mL) was added slowly over 15 minutes while the reaction temperature was maintained at 0° C. The cooling bath was then withdrawn and after the mixture had stirred at room temperature for 1.5 hours, a few chips of ice were added, followed, after 5 minutes, by 10N sodium hydroxide (200 mL). The reaction was heated to 110° C. which caused the vigorous evolution of dimethylamine from the mixture and after 10 minutes the reaction was cooled, diluted with water (750 mL) and extracted with dichloromethane (1×500 mL; 2×300 mL). The organic layers were washed in turn with water (2×200 mL), then were combined, dried (MgSO4 ) and evaporated to furnish an amber oil which was passed through a short column of silica gel (200 g) in dichloromethane. The fractions containing the product were evaporated to yield 39.4 g of crude 1-butyl-3,4-dihydro-6-methoxy-2-naphthalene-carboxaldehyde as an oil.

reactant | Phosphorus oxychloride | 16.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-butyl-3,4-dihydro-6-methoxy-naphthalene | 34.9 g | C(CCC)C1=CCCC2=CC(=CC=C12)OC | C15H20O
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-butyl-3,4-dihydro-6-methoxy-2-naphthalene-carboxaldehyde | 39.4 g | C(CCC)C1=C(CCC2=CC(=CC=C12)OC)C=O | C16H20O2
